Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Augmentin
 
Attending: ___.
 
Chief Complaint:
PIH eval
 
Major Surgical or Invasive Procedure:
vaginal delivery

 
History of Present Illness:
 ___ G1 at 38+1 presented to triage
for PIH eval after pressure 140/90 today
for the first time. 
 
Past Medical History:
PNC:
-___: ___ by ___
-Labs: A+/Ab-/HBsAg-/RPRNR/RI/HIV-
/GBS-
-Screening: LR NIPT
-FFS: WNL, anterior placenta
-GLT: 115, passed
-Issues
*AMA
*extreme anxiety and difficulty with
pelvic exams
OBHx: G1 current
GynHx: denies
PMH: insomnia, anxiety
PSH: WT
Meds: PNV
NKDA
 
Social History:
no t/e/d
 
Physical Exam:
Physical exam on admission:
-Gen: Anxious
-Abd: gravid, soft, NT
-Ext: soft, NT, mild edema
-NST: 130, mod var, +accels, no decels
-Toco: ctx q1-4min, pt completely
unaware
-TAUS: VTX at Dr. ___
PTA
-___: 6.5-7# by Leoplods
-SVE: L/C/P at Dr. ___ PTA

___ exam on discharge: 
General: NAD, A&Ox3
Breasts: non-tender, no erythema, soft, nipples intact
Lungs: No respiratory distress
Abd: soft, nontender, fundus firm at 2 cm below umbilicus,
erythema well within marked borders, significantly
improved from prior exam. no discharge, induration or fluctuance
appreciated at incision 
Lochia minimal
Extremities: no calf tenderness, no edema
 
Pertinent Results:
___ 04:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:50PM   PLT COUNT-253
___ 04:50PM   WBC-13.6* RBC-4.45 HGB-13.7 HCT-39.6 MCV-89# 
MCH-30.8 MCHC-34.6 RDW-12.7 RDWSD-41.1
___ 04:50PM   URIC ACID-7.6*
___ 04:50PM   ALT(SGPT)-33 AST(SGOT)-27
___ 10:59PM   CREAT-0.7
___ 10:59PM   ALT(SGPT)-37 AST(SGOT)-30
___ 10:59PM   URIC ACID-7.8*
___ 10:59PM   WBC-18.2* RBC-4.36 HGB-13.4 HCT-39.1 MCV-90 
MCH-30.7 MCHC-34.3 RDW-12.8 RDWSD-41.9

 
Brief Hospital Course:
Ms. ___ was transfered to the postpartum floor after 
undergoing a c-section for arrest of labor. Intrapartum, she 
developed pre-eclampsia, severe by BPs and ___, requiring IV 
antihypertensives, and underwent 24 hours of PP magnesium at a 
rate of 0.5gm/hr given her ___. She also developed chorio and 
underwent 24 hours of unasyn and clinda. 

On PPD1, she developed fever, acute SOB, with desaturation to 
88% on RA requiring 02. She underwent a CTA to r/o PE. The CTA 
was negative for PE, but did show bilateral pleural effusion, a 
a possible consolidation and PNA could not be ruled out. Patient 
continued to be SOB with desaturations when off oxygen. The 
decision was made to give IV lasix given her fluid overload 
status. Given the fever, her antibiotics were broaden to zosyn. 
By POD2, the patient was weaned off 02 with 97% 02 saturation on 
RA. She was continued on zosyn and remained afebrile. At that 
time, an abdominal erythema was noted and thought to be 
cellulitis. On POD3-4, patient remained afebrile, was ambulating 
with out SOB or desaturations, was tolerating a regular diet, 
and her cellulitis was improving. She endorsed diarrhea and a 
c-diff was obtained which was negative. On POD4 she was 
transitioned to PO augmentin. 

By postpartum day 5, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was afebrile with stable vital signs. She was 
then discharged home in stable condition with postpartum 
outpatient follow-up scheduled. 
 
Medications on Admission:
pnv
 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H would 
cellulitis/? pneumonia Duration: 6 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 (One) by mouth 
twice a day Disp #*14 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth four times a day Disp 
#*30 Tablet Refills:*0 
3.  NIFEdipine (Extended Release) 30 mg PO BID 
RX *nifedipine 30 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*2 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth four times a day Disp 
#*40 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Preeclampsia, chorioamionitis, possible pneumonia, wound 
cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Follow up NEXT WEEK for a wound check and then in 6 weeks for a 
postpartum exam
 
Followup Instructions:
___